Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Allogenic Stem Cell Transplant
 
Major Surgical or Invasive Procedure:
Placement of Central Line
Stem Cell Transplant

 
History of Present Illness:
___ man with small lymphocytic lymphoma CLL planned 
upcoming allogeneic transplant presenting to begin a course of 
TLI as part of TLI/ATG/Clofarabine protocol for allogeneic SCT. 
Plan is for total of 10 treatments, M-F, total dose = 800 cGy.
.
Patient was recently seen in the ED on ___ for fevers and 
productive cough dx with H1N1 infection tx with azithromycin and 
Tamiflu. No other recent illnesses.
 
Past Medical History:
SLL/CLL - initially diagnosed CLL stage III in ___, s/p six 
cycles of FCR, relapsed ___ flu like sx, abd pain, CT showing 
massively enlarged mesenteric and retroperitoneal lymph nodes, 
BM bx w/52% aspirate differential lymphs, tx with PCR
eiosinophilia
strongyloides s/p ivermectin
 
Social History:
___
Family History:
There is no history of hematologic disorders. He has two 
brothers and two sisters. One sister lives in ___. The rest 
of his siblings live in ___. No family history of 
cancer. He has a brother with a heart murmur. His mother is 
alive and his father died of an unclear throat problem. 
 
Physical Exam:
VITAL SIGNS: 97.8 ___ 16 99ra  
GENERAL: NAD In no acute distress.  
HEENT: PERRLA  
LYMPH NODES: small left cervical node, no other LAD  
LUNGS: CTAB  
HEART: RRR no RGM  
ABDOMEN: Soft, NT ND no R/G  
EXTREMITIES: no edema  

 
Pertinent Results:
LABS

LABS ON ADMISSION:

___ 10:02AM BLOOD WBC-3.4* RBC-4.43* Hgb-12.9* Hct-38.8* 
MCV-88 MCH-29.1 MCHC-33.2 RDW-13.2 Plt ___
___ 10:02AM BLOOD Neuts-47.3* ___ Monos-11.1* 
Eos-20.4* Baso-0.4
___ 01:20AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 10:02AM BLOOD ___ PTT-31.3 ___
___ 01:20AM BLOOD ___
___ 07:52PM BLOOD Ret Aut-1.3
___ 10:02AM BLOOD Glucose-96 UreaN-20 Creat-1.1 Na-141 
K-3.8 Cl-104 HCO3-28 AnGap-13
___ 10:02AM BLOOD ALT-22 AST-22 LD(LDH)-236 AlkPhos-54 
TotBili-0.4
___ 12:00AM BLOOD Lipase-199*
___ 10:02AM BLOOD Albumin-4.4 Calcium-9.4 Phos-3.8 Mg-2.0

LABS ON DISCHARGE:

___ 12:00AM BLOOD WBC-15.9* RBC-3.08* Hgb-8.8* Hct-26.1* 
MCV-85 MCH-28.7 MCHC-33.9 RDW-15.7* Plt ___
___ 12:26AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL 
Stipple-OCCASIONAL
___ 12:00AM BLOOD Plt ___
___ 12:00AM BLOOD ___ PTT-29.9 ___
___ 12:00AM BLOOD ___ 12:00AM BLOOD ___
___ 12:00AM BLOOD Ret Aut-1.4
___ 12:00AM BLOOD Glucose-107* UreaN-12 Creat-1.0 Na-136 
K-4.1 Cl-102 HCO3-27 AnGap-11
___ 12:00AM BLOOD ALT-18 AST-30 LD(LDH)-725* AlkPhos-88 
Amylase-100 TotBili-0.4
___ 12:00AM BLOOD Lipase-29
___ 12:00AM BLOOD Albumin-3.8 Calcium-8.8 Phos-5.3* Mg-1.5* 
UricAcd-4.9
___ 12:26AM BLOOD Ferritn-1213*
___ 08:45AM BLOOD Cyclspr-181

BLOOD COUNTS:

___ 10:02AM BLOOD WBC-3.4* RBC-4.43* Hgb-12.9* Hct-38.8* 
MCV-88 MCH-29.1 MCHC-33.2 RDW-13.2 Plt ___
___ 01:20AM BLOOD WBC-10.6# RBC-3.98* Hgb-11.6* Hct-34.7* 
MCV-87 MCH-29.2 MCHC-33.5 RDW-13.2 Plt ___
___ 07:52PM BLOOD WBC-13.6* RBC-3.67* Hgb-10.7* Hct-32.2* 
MCV-88 MCH-29.3 MCHC-33.3 RDW-13.5 Plt ___
___ 12:00AM BLOOD WBC-11.1* RBC-3.58* Hgb-10.5* Hct-31.4* 
MCV-88 MCH-29.2 MCHC-33.3 RDW-13.5 Plt ___
___ 12:00AM BLOOD WBC-6.3 RBC-3.49* Hgb-10.3* Hct-30.1* 
MCV-86 MCH-29.6 MCHC-34.3 RDW-13.5 Plt Ct-90*
___ 01:00AM BLOOD WBC-3.1*# RBC-3.87* Hgb-11.3* Hct-33.4* 
MCV-86 MCH-29.2 MCHC-33.8 RDW-13.5 Plt ___
___ 12:00AM BLOOD WBC-2.1* RBC-3.72* Hgb-10.9* Hct-32.6* 
MCV-88 MCH-29.4 MCHC-33.6 RDW-13.3 Plt ___
___ 12:00AM BLOOD WBC-4.8# RBC-3.62* Hgb-10.6* Hct-32.1* 
MCV-89 MCH-29.4 MCHC-33.1 RDW-13.4 Plt ___
___ 12:00AM BLOOD WBC-2.7* RBC-3.83* Hgb-11.1* Hct-33.8* 
MCV-88 MCH-29.0 MCHC-32.9 RDW-13.1 Plt ___
___ 12:00AM BLOOD WBC-2.4* RBC-3.44* Hgb-10.2* Hct-29.9* 
MCV-87 MCH-29.7 MCHC-34.1 RDW-13.2 Plt ___
___ 12:00AM BLOOD WBC-1.6* RBC-3.46* Hgb-10.4* Hct-30.8* 
MCV-89 MCH-30.2 MCHC-33.9 RDW-13.3 Plt ___
___:00AM BLOOD WBC-1.1* RBC-3.52* Hgb-10.5* Hct-30.2* 
MCV-86 MCH-29.9 MCHC-34.9 RDW-13.0 Plt ___
___ 12:00AM BLOOD WBC-0.2*# RBC-3.38* Hgb-9.8* Hct-29.0* 
MCV-86 MCH-29.0 MCHC-33.8 RDW-12.9 Plt Ct-80*
___ 01:15AM BLOOD WBC-0.1* RBC-2.92* Hgb-8.6* Hct-24.8* 
MCV-85 MCH-29.3 MCHC-34.5 RDW-13.0 Plt Ct-55*
___ 01:00AM BLOOD WBC-0.9*# RBC-2.90* Hgb-8.6* Hct-24.6* 
MCV-85 MCH-29.5 MCHC-34.8 RDW-12.9 Plt Ct-26*#
___ 12:48AM BLOOD WBC-0.1*# RBC-2.91* Hgb-8.6* Hct-24.8* 
MCV-85 MCH-29.6 MCHC-34.8 RDW-12.8 Plt Ct-16*
___ 11:12AM BLOOD WBC-0.1* RBC-3.22* Hgb-9.2* Hct-27.1* 
MCV-84 MCH-28.6 MCHC-33.9 RDW-12.3 Plt Ct-14*
___ 12:00AM BLOOD WBC-0.7*# RBC-2.83* Hgb-8.1* Hct-23.7* 
MCV-84 MCH-28.7 MCHC-34.3 RDW-12.6 Plt Ct-10*
___ 12:42AM BLOOD WBC-0.1*# RBC-2.95* Hgb-8.6* Hct-24.8* 
MCV-84 MCH-29.0 MCHC-34.5 RDW-12.9 Plt Ct-10*
___ 12:32AM BLOOD WBC-0.1* RBC-2.80* Hgb-8.4* Hct-23.9* 
MCV-85 MCH-29.9 MCHC-35.1* RDW-13.1 Plt Ct-15*
___ 12:00AM BLOOD WBC-0.1* RBC-3.15* Hgb-9.3* Hct-26.2* 
MCV-83 MCH-29.4 MCHC-35.3* RDW-12.6 Plt Ct-10*
___ 12:00AM BLOOD WBC-0.4*# RBC-3.06* Hgb-8.8* Hct-25.5* 
MCV-83 MCH-28.9 MCHC-34.7 RDW-13.0 Plt Ct-28*
___ 12:00AM BLOOD WBC-2.5*# RBC-2.99* Hgb-8.8* Hct-25.0* 
MCV-84 MCH-29.4 MCHC-35.2* RDW-13.3 Plt Ct-23*
___ 12:00AM BLOOD WBC-10.1# RBC-3.14* Hgb-9.3* Hct-26.4* 
MCV-84 MCH-29.4 MCHC-35.0 RDW-13.7 Plt Ct-32*
___ 12:00AM BLOOD WBC-23.6*# RBC-2.95* Hgb-8.8* Hct-25.1* 
MCV-85 MCH-29.9 MCHC-35.2* RDW-14.3 Plt Ct-49*#
___ 12:00AM BLOOD WBC-23.2* RBC-3.04* Hgb-8.7* Hct-26.3* 
MCV-87 MCH-28.6 MCHC-32.9 RDW-14.8 Plt Ct-75*#
___ 12:26AM BLOOD WBC-19.4* RBC-2.90* Hgb-8.3* Hct-24.8* 
MCV-86 MCH-28.5 MCHC-33.3 RDW-15.3 Plt Ct-86*
___ 12:00AM BLOOD WBC-15.9* RBC-3.08* Hgb-8.8* Hct-26.1* 
MCV-85 MCH-28.7 MCHC-33.9 RDW-15.7* Plt ___

ANCs:

___ 01:20AM BLOOD ___
___ 12:00AM BLOOD ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 01:15AM BLOOD ___ Ct-48*
___ 01:00AM BLOOD ___ ___
___ 12:48AM BLOOD ___ Ct-80*
___ 12:00AM BLOOD ___ ___
___ 12:42AM BLOOD ___ Ct-54*
___ 12:32AM BLOOD ___ Ct-60*
___ 12:00AM BLOOD ___ Ct-90*
___ 12:00AM BLOOD ___ Ct-52*
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___
___ 12:26AM BLOOD ___
___ 12:00AM BLOOD ___

LIPASE:
___ 12:00AM BLOOD Lipase-199*
___ 12:00AM BLOOD Lipase-29
___ 12:00AM BLOOD Lipase-35
___ 12:00AM BLOOD Lipase-30
___ 12:00AM BLOOD Lipase-36
___ 01:15AM BLOOD Lipase-23
___ 01:00AM BLOOD Lipase-27
___ 12:48AM BLOOD Lipase-20
___ 12:00AM BLOOD Lipase-38
___ 12:42AM BLOOD Lipase-28
___ 12:32AM BLOOD Lipase-18
___ 12:00AM BLOOD Lipase-15
___ 12:00AM BLOOD Lipase-21
___ 12:00AM BLOOD Lipase-14
___ 12:00AM BLOOD Lipase-18
___ 12:00AM BLOOD Lipase-19
___ 12:00AM BLOOD Lipase-23
___ 12:26AM BLOOD Lipase-29
___ 12:00AM BLOOD Lipase-29

___ 12:00AM    199* 

CYCLOSPORINE LEVELS:

___ 11:15AM BLOOD Cyclspr-54*
___ 01:15AM BLOOD Cyclspr-1378*
___ 09:45AM BLOOD Cyclspr-61*
___ 09:05AM BLOOD Cyclspr-143
___ 09:00AM BLOOD Cyclspr-153
___ 09:40AM BLOOD Cyclspr-203
___ 09:30AM BLOOD Cyclspr-186
___ 09:20AM BLOOD Cyclspr-218
___ 10:40AM BLOOD Cyclspr-372
___ 09:15AM BLOOD Cyclspr-275
___ 08:50AM BLOOD Cyclspr-285
___ 08:45AM BLOOD Cyclspr-214
___ 05:45AM BLOOD Cyclspr-299
___ 08:45AM BLOOD Cyclspr-PND

MICROBIOLOGY

___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ Immunology (CMV) CMV Viral Load-FINAL INPATIENT 
___ Blood (EBV) ___ VIRUS VCA-IgG AB-FINAL; 
___ VIRUS EBNA IgG AB-FINAL; ___ VIRUS VCA-IgM 
AB-FINAL INPATIENT 
___ STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL 
INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT 
___ Stem Cell - Blood Culture Stem Cell ___ 
Culture-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT 

IMAGING

CXR ___: No evidence of pneumothorax. No focal consolidation 
or pleural
effusion noted.

Radiology ReportCT ABDOMEN W/CONTRASTStudy Date of ___ 
9:30 ___
 
1. No acute intra-abdominal or pelvic findings to explain the 
patient's
symptoms. Moderate to large amount of stool large bowel, 
particularly the
ascending and transverse colon.
 
2. Overall decrease in multiple enlarged lymph nodes in the 
abdomen and
pelvis.
 
3. Unchanged hemangiomas in the liver.
 

PULMONARY FUNCTION TESTS:

___  46  ___
Pulmonary ReportSPIROMETRY, LUNG VOLUMES, DLCOStudy Date of 
___  8:56 AM
 
SPIROMETRY8:56 AMPre drugPost drug
  ActualPred%PredActual%Pred%chg
FVC ___   
FEV1 ___   
MMF ___   
FEV1/FVC ___   
LUNG VOLUMES8:56 AMPre drugPost drug
  ActualPred%PredActual%Pred
TLC ___   
FRC ___   
RV ___   
VC ___   
IC ___   
ERV ___   
RV/TLC ___   
He Mix Time 2.88     
DLCO8:56 AM 
  ActualPred%Pred
DSB 21.___   
VA(sb) ___   
HB 8.70     
DSB(HB) 27.___   
DL/VA ___   
NOTES:
 
  
 DX: CLL. Medications: no respiratory meds. Hgb: 8.7 (___). 
BMI: 25.1.
 Good test quality and reproducibility. FVC is a composite.
  
 Mechanics: The FVC, FEV1 and FEV1/FVC ratio are mildly 
reduced.
 Flow-Volume Loop: Mild expiratory coving with a mildly reduced 
volume
 excursion.
 Lung Volumes: The TLC is normal. The FRC is mildly reduced. 
The RV and
 RV/TLC ratio are elevated.
 DLCO: The Dsb corrected for hemoglobin is normal.
  
 Impression:
  Mild obstructive ventilatory defect. Compared to the prior 
study of
 ___ the FVC has decreased by 0.81 L (-18%), the FEV1 has 
decreased by
 0.50 L (-17%) and the DLCO has decreased by 6.71 ml/min/mmHg 
(20%) while TLC
 has not changed significantly.
 
 
Brief Hospital Course:
# SCLL/CLL: Treated with Allogenic SCT with TLI/ATG/Clofarabine. 
Overall tolerated SCT well without major complications. No 
biopsies conducted during this hospitalization.

# Febrile Neutropenia: briefly febrile with negative cultures 
and imaging. Started on cefepime and vancomycin which were 
discontinued as the patient's neutropenia resolved. ANC rose 
quickly upon receiving neupogen and was > 10,000 at the time of 
discharge.

# Headaches: Patient intermittently complaining of headaches up 
to ___. CT scan negative, non-focal neuro exam. Successfully 
treated with oxycodone. Headaches resolved towards the end of 
his hospitalization.

# Elevated Blood Pressures: started on amlodipine for high 
ranging blood pressures in the context of cyclosporine use.

# Elevated Pancreatic Enzymes: per history patient has had 
mildly elevated pancreatic enzymes in the past. Of note, his 
lipase was elevated to 199 on admission but then consistently 
WNL across the rest of his course. Amylase was intermittently 
elevated peaking at 190 early during the hospitalization and 
then normal or slightly elevated across the later part of his 
hospitalization.

# History of Strongyloides: treated with 2-day course of 
ivermectin on day ___ and then a 5-day course that was started 2 
days prior to discharge.

# Abdominal Pain: intermittent complaints of abdominal pain 
without nausea or vomiting, mostly RLQ, without tenderness or 
rebound, felt likely ___ patient's intermittent constipation. CT 
scan showed no evidence of any acute process. Treated with a 
bowel regimen.

 
Medications on Admission:
ALBUTEROL - 90 mcg Aerosol - 2 puffs inhaler q 4 hours as needed 
 
for wheezing. Please dispense MDI.  
FLUTICASONE [FLONASE] - 50 mcg Spray, Suspension - 1 (One) spray 
 
intranasally in each nostril once a day  
ONDANSETRON HCL - 8 mg Tablet - 1 Tablet(s) by mouth three times 
 
a day as needed for nausea  
PROCHLORPERAZINE MALEATE - 5 mg Tablet - ___ Tablet(s) by mouth  

every 6 hours  

 
Discharge Medications:
1. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).
Disp:*90 Tablet(s)* Refills:*2*
2. Mycophenolate Mofetil 250 mg Capsule Sig: Five (5) Capsule PO 
BID (2 times a day).
Disp:*300 Capsule(s)* Refills:*2*
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Cyclosporine 100 mg Capsule Sig: Two (2) Capsule PO Q12H 
(every 12 hours): DO NOT SUBSTITUTE WITH GENERIC.
Disp:*120 Capsule(s)* Refills:*2*
5. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for constipation.
Disp:*90 Tablet(s)* Refills:*0*
6. Docusate Sodium 100 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*120 Capsule(s)* Refills:*0*
7. Ursodiol 300 mg Capsule Sig: Two (2) Capsule PO QPM (once a 
day (in the evening)): Take until Day 100.
Disp:*60 Capsule(s)* Refills:*2*
8. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).
Disp:*30 Cap(s)* Refills:*2*
9. Fluconazole 200 mg Tablet Sig: Two (2) Tablet PO Q24H (every 
24 hours).
Disp:*60 Tablet(s)* Refills:*2*
10. Ivermectin 3 mg Tablet Sig: Five (5) Tablet PO once a day 
for 3 days.
Disp:*15 Tablet(s)* Refills:*0*
11. Bactrim 400-80 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
12. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for pain: please take only as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
13. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO QAM: Take 
300mg every morning for the first 100 days.
Disp:*30 Capsule(s)* Refills:*2*
14. Zofran 4 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea: please take only as needed for 
nausea or vomiting.
Disp:*30 Tablet(s)* Refills:*1*
15. Compazine 5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea: please take only as needed for 
nausea or vomiting.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
PRIMARY:
1. CLL/SLL

SECONDARY:
1. eiosinophilia

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
It was a pleasure taking care of you during your admission at 
___. You were admitted for a 
bone marrow transplant. You tolerated this procedure well 
without any major complications.
 
We have changed several of your medications during your 
admission. Please take all of your medications exactly as 
prescribed.
 
Followup Instructions:
___